US09260375B2
To a solution of trans-4-benzyloxycarbonylmethyl-1-hydroxycyclohexane (2.20 g, 8.86 mmol) in dimethylformamide (31 mL) were added imidazole (953 mg, 14.0 mmol) and t-butyldimethylsilyl chloride (1.60 g, 10.6 mmol) at room temperature, and the mixture was stirred at 60° C. for 3 h. The reaction mixture was diluted with water (70 mL) and hexane (200 mL) with stirring under ice cooling to separate the phases. The aqueous layer was extracted again with hexane, and the combined organic layer was concentrated under reduced pressure and the residue thus obtained was subjected to silica gel column chromatography (hexane-ethyl acetate 50:1) to give 2.96 g of trans-4-benzyloxycarbonylmethyl-1-t-butyldimethylsilyloxycyclohexane as oil (yield: 92%).

reactant | trans-4-benzyloxycarbonylmethyl-1-hydroxycyclohexane | 8.86 mmol, 2.20 g | C(C1=CC=CC=C1)OC(=O)C[C@@H]1CC[C@H](CC1)O | C15H20O3
reactant | imidazole | 14.0 mmol, 953 mg | N1C=NC=C1 | C3H4N2
reactant | t-butyldimethylsilyl chloride | 10.6 mmol, 1.60 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | dimethylformamide | 31 mL | CN(C=O)C | C3H7NO
solvent | water | 70 mL | O | H2O
solvent | hexane | 200 mL | CCCCCC | C6H14
product | trans-4-benzyloxycarbonylmethyl-1-t-butyldimethylsilyloxycyclohexane | 2.96 g, yield: 92% | C(C1=CC=CC=C1)OC(=O)C[C@@H]1CC[C@H](CC1)O[Si](C)(C)C(C)(C)C | C21H34O3Si
